US05331006
In THF (85 mL) was dissolved the Schiffs' Base (2.45 g, 12.8 mmol), derivedfrom alanine methyl ester and benzaldehyde, and cooled to -40° C. Tothis was added potassium-t-butoxide (2.92 g, 26 mmol) and the orange solution stirred under nitrogen at -40° C. for 30 minutes. To this was added 3-(chloromethyl)-1H-β-carboline hydrochloride salt (3.24 g,12.8 mmol), the reaction mixture stirred for another 30 minutes at -40° C. and then slowly warmed to room temperature overnight. The black solution was evaporated in the vacuum and then partitioned between ethyl acetate (150 mL) and water (50 mL). To the organic layer was added 1N HCl (100 mL) and the mixture was stirred for 2 hours. Then the organic was separated, washed with Na2CO3 solution, dried over Na2SO4 and evaporated in the vacuum to give 2-(9H-β-carboline-3-yl)-alanine methyl ester (2.4 g, 50.5%) as a light tan foam.

reactant | alanine methyl ester | COC([C@@H](N)C)=O | C4H9NO2
reactant | benzaldehyde | C(C1=CC=CC=C1)=O | C7H6O
reactant | potassium-t-butoxide | 26 mmol, 2.92 g | CC(C)([O-])C.[K+]
reactant | 3-(chloromethyl)-1H-β-carboline hydrochloride salt | 12.8 mmol, 3.24 g | Cl.ClCC1=NCC2=NC3=CC=CC=C3C2=C1
solvent | THF | 85 mL | C1CCOC1 | C4H8O
product | 2-(9H-β-carboline-3-yl)-alanine methyl ester | 2.4 g, 50.5% | COC([C@@](N)(C)C=1N=CC=2NC3=CC=CC=C3C2C1)=O | C15H15N3O2
